US04906402
(a) Hexyl (R)-2-(4-formylphenoxy)propanoate (HFPP)
Sodium hydride (0.4 mole) was suspended in dimethyl formamide (20 ml). 4-Hydroxybenzaldehyde (0.2 mole) in DMF (50 ml) was added. After the effervesence had subsided, 2-chloropropanoic acid (0.22 mole) was added dropwise. During the addition the reaction temperature rose to 70° C. The mixture was stirred overnight at 110° C. Upon cooling the mixture was diluted with saturated NaHCO3 solution and extracted with ethyl acetate (3×100 ml). The aqueous phase was then acidified with concentrated HCl solution and extracted with ethyl acetate. After washing the second organic extract with water and evaporation, a brown oil was obtained. Crystallisation from hot chloroform and hexane gave a brown solid (7.6 g). The mother liquors were evaporated to dryness to yield a brown solid (17.3 g) used without further purification. (Total yield 64%). 'H-NMR spectroscopy showed these products to be greater than 90% pure (m.p. 114°-8° C.).

reactant | Sodium hydride | 0.4 mole | [H-].[Na+]
reactant | 4-Hydroxybenzaldehyde | 0.2 mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-chloropropanoic acid | 0.22 mole | ClC(C(=O)O)C | C3H5ClO2
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Hexyl (R)-2-(4-formylphenoxy)propanoate | 7.6 g | C(=O)C1=CC=C(O[C@@H](C(=O)OCCCCCC)C)C=C1 | C16H22O4
